US07625903B2
Ethyl 2-[(2-chloro-5-fluoro-4-pyrimidinyl)amino]benzoate
A round-bottomed flask was charged with 2,4-dichloro-5-fluoropyrimidine (2.5 g, 15 mmol), ethyl 2-aminobenzoate (4.9 g, 30 mmol), N,N-diisopropylethylamine (5.2 mL, 3.9 g, 30 mmol) and isopropanol (50 mL). The flask was fitted with a reflux condenser and the mixture was heated to reflux and stirred for 18 h. After cooling the reaction mixture to room temperature a precipitate appeared. The solid was collected and washed sparingly with isopropanol then copiously with ethyl ether to afford the title compound as a white solid; yield, 1.8 g (41%). MS: M(C13H13ClFN3O2)=295.70 (M+H)+=296.0 and 298.0.

reactant | 2,4-dichloro-5-fluoropyrimidine | 15 mmol, 2.5 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | ethyl 2-aminobenzoate | 30 mmol, 4.9 g | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
reactant | N,N-diisopropylethylamine | 30 mmol, 5.2 mL, 3.9 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | Ethyl 2-[(2-chloro-5-fluoro-4-pyrimidinyl)amino]benzoate | ClC1=NC=C(C(=N1)NC1=C(C(=O)OCC)C=CC=C1)F | C13H11ClFN3O2
